Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
tremors and rectal bleeding
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF THE PRESENTING ILLNESS:  
___ with a history of essential tremor, paroxysmal atrial
fibrillation, PTSD, HTN, who presents with worsening tremor and
memory problems.

Patient reports that for months he has had worsening memory,
noticed by his wife, and will have episodes where he completely
forgets the events of a specific period of time and will have to
be reminded of things that happened. He notes for example that 
he
recently had a fall (no LOC or headstrike) that he did not 
recall
when his wife asked him about the following day. He also feels
like in the past several months his tremor has been increasing 
in
severity, and is interfering with his daily activities more, to
the point where he is having difficulty doing ADLs. He is
scheduled for bilateral knee replacement surgery, but is 
awaiting
neuro consult before surgery. Patient also notes ongoing 
diarrhea
that he relates to one of his medications, though he is not sure
which. Finally, notes BRBPR that he primarily notices on toilet
paper, which he attributes to hemorrhoids and Coumadin. He has 
no
visual changes, fevers/chills, chest pain, dyspnea,
nausea/vomiting, abdominal pain, or dysuria.

The patient came to the ED at the encouragement from an
outpatient physician when he attended an appointment for an INR
check, with the intention of having an expedited neurology
evaluation. In the ED, initial vitals were: T 97.8 HR 59 BP
119/91 RR 15 O2 sat 98% RA. Exam notable for: resting tremor 
jaw,
intention tremor L>R upper extremities, and rectal exam with
visible bleeding, external hemorrhoids.

Labs notable for:  INR 3.3, Hgb 15.1, ALT 46/AST 51
Imaging was notable for:  CTH without acute abnormality, with
enlarged ventriles, normal CXR

Patient was seen by neurology, who felt that memory issues ___
inattention in the setting of worsening PTSD and alcohol use, 
and
recommended starting propranolol for tremor. Neurology did not
feel that inpatient neurology workup was warranted. Patient was
given 5 mg diazepam once prior to admission to the floor.

Upon arrival to the floor, patient reports continued tremor but
otherwise feeling well. Endorses history above, and reports that
he feels generally at his baseline but that his tremors are
becoming worse and are preventing him from functioning

ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative

 

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. Degenerative disc disease and radicular pain s/p right sacral
   transforaminal epidural steroid injection (TFESI)
2. Hyperplastic colonic polyps
3. Hypertension (LVH)
4. Anxiety
5. Left pelvis/femur fracture in ___
6. Total hip replacement - right, ___
7. PTSD
8. Complex sleep apnea
9. Left shoulder repair
10. Aortic stenosis - mild (2.5m/s; 26 mmHg; ___
11. Aortic regurgitation - mild-moderate (___)
12. Mitral regurgitation - mild (___)
13. Atrial fibrillation - paroxysmal; CV ___
14. Dilated ascending aorta - mild (4.0cm ___

 
Social History:
___
Family History:
FAMILY HISTORY:  
Mother died of heart disease, father died of lung CA. siblings
with stroke and atrial fibrillation. Grandfather had essential
tremor.
 

 
Physical Exam:
ADMISSION
PHYSICAL EXAM:  
VITAL SIGNS: T 98.2 BP 158/84 HR 55 RR 18 O2 sat 97% RA 
GENERAL: Patient is lying in bed, not in acute distress, with
noticeable resting tremor of right upper extremity 
HEENT:  NCAT, PERRL, no nystagmus. Moist mucus membranes.
NECK: Supple, no palpable LAD, no JVD 
CARDIAC:  Normal S1S2, RRR, soft systolic murmur without
radiation
LUNGS:  Clear bilaterally to auscultation without rales, 
wheezes,
or rhonchi
ABDOMEN:  Soft, non-tender, non-distended, no palpable
organomegaly
EXTREMITIES:  Warm, well-perfused, no lower extremity edema
NEUROLOGIC: CNII-XII intact, motor strength ___ in upper and
lower extremities, sensation grossly intact, 2+ patellar
reflexes, resting tremor that worsens with purposeful movement 
in
the R>L UE.

DISCHARGE
VITAL SIGNS: T 98.4 BP 139/83 HR 60 RR 60 O2 sat 97% RA 
GENERAL: Patient is lying in bed, not in acute distress, with 
noticeable resting tremor of right upper extremity 
NECK: Supple, no JVD 
CARDIAC:  Normal heart sounds, no murmurs
LUNGS:  Clear bilaterally to auscultation without rales, 
wheezes, or rhonchi
ABDOMEN:  Soft, non-tender, non-distended, no palpable 
organomegaly.
Rectal exam with evidence of external hemorrhoids without signs 
of active bleeding.  
EXTREMITIES:  Warm, well-perfused, no lower extremity edema
NEUROLOGIC: CNII-XII intact, motor strength ___ in upper and 
lower extremities, sensation grossly intact, 2+ patellar 
reflexes, resting tremor that worsens with purposeful movement 
in the R>L UE

 
Pertinent Results:
ADMISSION

___ 01:55PM BLOOD WBC-6.2 RBC-4.50* Hgb-15.1 Hct-42.8 
MCV-95 MCH-33.6* MCHC-35.3 RDW-12.7 RDWSD-44.4 Plt ___
___ 01:55PM BLOOD Neuts-64.1 ___ Monos-9.1 Eos-0.3* 
Baso-0.5 Im ___ AbsNeut-4.00 AbsLymp-1.59 AbsMono-0.57 
AbsEos-0.02* AbsBaso-0.03
___ 01:55PM BLOOD ___ PTT-40.2* ___
___ 01:55PM BLOOD Plt ___
___ 01:55PM BLOOD Glucose-87 UreaN-17 Creat-0.7 Na-139 
K-4.3 Cl-100 HCO3-21* AnGap-18*
___ 01:55PM BLOOD ALT-46* AST-54* AlkPhos-63 TotBili-0.8
___ 01:55PM BLOOD Albumin-4.7 Calcium-9.3 Phos-3.6 Mg-1.8

DISCHARGE

___ 07:33AM BLOOD WBC-4.7 RBC-4.10* Hgb-13.7 Hct-39.4* 
MCV-96 MCH-33.4* MCHC-34.8 RDW-12.4 RDWSD-44.0 Plt ___
___ 07:33AM BLOOD ___ PTT-34.2 ___
___ 07:33AM BLOOD Plt ___
___ 07:33AM BLOOD Glucose-106* UreaN-19 Creat-0.7 Na-139 
K-3.9 Cl-100 HCO3-23 AnGap-16
___ 07:33AM BLOOD ALT-33 AST-36 LD(LDH)-182 AlkPhos-53 
TotBili-1.3
___ 07:33AM BLOOD Calcium-8.8 Phos-3.5 Mg-1.8
___ 01:10PM BLOOD VitB12-308 Folate->___ with a history of essential tremor, paroxysmal atrial 
fibrillation, PTSD, HTN, who presents with worsening tremor and 
memory problems. 

# Memory deficits
Patient was alert and fully oriented during the hospitalization. 
Patient endorses history of "blackouts" and memory problems as 
far back as ___. He also reports a slow, intermittent decline 
in his cognitive function. He states deficits occur sporadically 
and some days he feels no change. Other than his intention 
tremor, he denies any new or acute neurologic symptoms. 
Neurological exam significant only for for tremor, and head CT 
without acute process. No focalized or signs or symptoms of 
active infections. Per neurology team evaluation, low suspicion 
for new neurological process causing memory deficit. Memory loss 
could be in the setting of concomitant alcohol and 
benzodiazepine use, as well as stress with multiple friends 
passing away recently. TSH 0.90 on ___, and B12 and folic acid 
levels were ordered. Patient will be follow up with neurology in 
the outpatient setting on ___. 

# Essential tremors
Patient with essential tremors since he was a ___. His 
grandfather also had these tremors. They used to come and go' 
however, they have been progressively getting worse especially 
over the last year, and are now continuous. Tremors are worse in 
his right compared to his left, and are triggered by decreased 
sleep and increased anxiety along with physical activity. Per 
neurology recommendations, atenolol was stopped and propranolol 
10mg qd was started for the management of essential tremors. 
Patient reports improvement with the change of medication on day 
of discharge. OT evaluated him and he should see them as an 
outpatient.

#Rectal bleeding 
Patient with a medical history of hemorrhoids and warfarin use 
for Afib. He has bleeding from his hemorrhoids during the last 
month. Patient with external hemorrhoids on physical exam 
without signs of active bleeding. No history of melena to 
suggest UGIB. Patient hemodynamically stable without evidence of 
anemia.

# Transaminitis
Patient with moderate intake of alcohol, and mildly elevated 
transaminases with normal albumin and mild thrombocytopenia. 
Transaminitis not significantly changed since ___. Improved 
upon repeat. 

# Atrial fibrillation on Warfarin:
On atenolol, propefone. CHADS2-VASC = 1; on warfarin. S/P DC 
cardioversion in ___ sinus rhythm noted on admission. Will 
start propranolol in place of atenolol for tremor control

# Alcohol/BZD use use: 
Patient reports that tremors are better when drinking 3 glasses 
of wine per night along with Valium. Denies history of alcohol 
withdrawal symptoms and he did not score on the CIWA scale. 
Discussed importance of minimizing alcohol use, and not taking 
valium at same time as he has been drinking alcohol. Recommended 
close follow up with his therapist, psychiatrist and PCP for 
further management. 

# Depression
# Anxiety
# PTSD
Patient with a history of violent childhood and PTSD and is 
currently on Wellbutrin. Stress may be exacerbating his tremors 
and alcohol/BZD intake. Plan for follow up as above. 

# HTN:
- Continued home lisinopril

# HLD: 
- Continued home pravastatin

TRANSITIONAL ISSUES
[] Patient will have outpatient OT script and should follow up 
with them for his essential tremor.
-Consider outpatient abdominal imaging to evaluate for 
steatohepatitis and transaminitis. LFT have been stable from 
baseline but consider repeat. 
-Atenolol was stopped and propranolol 10mg daily was started for 
the management of essential tremors. Neurology will titrate this 
medication as needed.
[] Rectal Hemorrhoids: Please re-evaluate rectal 
bleeding/hemorrhoids.
[] Cognitive Decline and Memory Issues: Follow up with 
outpatient neurologist on ___. Consider a neuropsychological 
evaluation to assess degree of cognitive decline 
[] PTSD/Depression/Anxiety: Patient should follow up with 
outpatient psychiatrist and adjustments to his psychiatry 
medications, especially for anxiety and his benzo use.
[] Please follow up B12, folate 
-Follow up with outpatient psychotherapist 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Lisinopril 20 mg PO BID 
3. Naproxen 500 mg PO Q8H:PRN Pain - Moderate 
4. LORazepam 1 mg PO DAILY:PRN anxiety 
5. Pravastatin 20 mg PO QPM 
6. Propafenone HCl 150 mg PO BID 
7. Sertraline 50 mg PO DAILY 
8. Warfarin 5 mg PO 4X/WEEK (___) 
9. Warfarin 7.5 mg PO 3X/WEEK (___) 
10. Ascorbic Acid ___ mg PO DAILY 
11. Vitamin D 400 UNIT PO DAILY 
12. coenzyme Q10 100 mg oral DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Fish Oil (Omega 3) 1000 mg PO DAILY 
15. turmeric root extract ___ mg oral DAILY 

 
Discharge Medications:
1.  Propranolol 10 mg PO DAILY 
RX *propranolol 10 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Ascorbic Acid ___ mg PO DAILY  
3.  coenzyme Q10 100 mg oral DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  Lisinopril 20 mg PO BID  
6.  LORazepam 1 mg PO DAILY:PRN anxiety  
7.  Multivitamins 1 TAB PO DAILY  
8.  Naproxen 500 mg PO Q8H:PRN Pain - Moderate  
9.  Pravastatin 20 mg PO QPM  
10.  Propafenone HCl 150 mg PO BID  
11.  Sertraline 50 mg PO DAILY  
12.  turmeric root extract ___ mg oral DAILY  
13.  Vitamin D 400 UNIT PO DAILY  
14.  Warfarin 5 mg PO 4X/WEEK (___)  
15.  Warfarin 7.5 mg PO 3X/WEEK (___)  
16.Outpatient Occupational Therapy
ICD-9: Essential Tremor 333.1
Frequency: ___ weekly

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
-----------------
Essential Tremor
Cognitive Deficits

SECONDARY DIAGNOSIS
-------------------
PTSD
Alcohol Use Disorder
Benzodiazepine Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you.

You were admitted to the hospital because you had a worsening 
tremor and memory problems. 

We had the neurologist see you who changed your medications to 
help with your tremor. They do not think that your memory issues 
are neurological and your head CT was normal.

When you leave the hospital, it is very important that you take 
your new medications and you follow up with your doctors ___.

We wish you the best,
your ___ care team
 
Followup Instructions:
___